US08614195B2
To a stirred solution of (R)-2-tert-butoxycarbonylamino-3-methyl-butyric acid (6.3 g, 29.1 mmol) in DMF (40 ml) was added N,N′-dicyclohexylcarbodiimide (6.0 g, 29.1 mmol). After stirring for 30 min at room temperature, reaction mixture was cooled to 0° C., added a solution of {(2R,3R,4R,5S,6S)-3,4,5-tris-benzyloxy-6-[3-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-4-ethyl-phenyl]-tetrahydro-pyran-2-yl}-methanol (4.0 g, 5.8 mmol) in DMF (20 ml) followed by DMAP (360 mg, 2.9 mmol) and stirred at ambient temperature for overnight. Reaction was quenched by the addition of water (150 ml) and extracted with ethyl acetate (2×80 ml). Combined organic layers were washed with water (100 ml), brine (100 ml), dried over sodium sulfate, concentrated and purified by silica gel column chromatography to give 4.5 g of (R)-2-tert-butoxycarbonylamino-3-methyl-butyric acid (2R,3R,4R,5S,65)-3,4,5-tris-benzyloxy-6-[3-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-4-ethyl-phenyl]-tetrahydro-pyran-2-ylmethyl ester as a colorless oil.

reactant | (R)-2-tert-butoxycarbonylamino-3-methyl-butyric acid | 29.1 mmol, 6.3 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C(C)C | C10H19NO4
reactant | N,N′-dicyclohexylcarbodiimide | 29.1 mmol, 6.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | {(2R,3R,4R,5S,6S)-3,4,5-tris-benzyloxy-6-[3-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-4-ethyl-phenyl]-tetrahydro-pyran-2-yl}-methanol | 5.8 mmol, 4.0 g | C(C1=CC=CC=C1)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C1=CC(=C(C=C1)CC)CC1=CC2=C(OCCO2)C=C1)CO | C44H46O7
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 2.9 mmol, 360 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (R)-2-tert-butoxycarbonylamino-3-methyl-butyric acid (2R,3R,4R,5S,65)-3,4,5-tris-benzyloxy-6-[3-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-4-ethyl-phenyl]-tetrahydro-pyran-2-ylmethyl ester | 4.5 g | C(C1=CC=CC=C1)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C1=CC(=C(C=C1)CC)CC1=CC2=C(OCCO2)C=C1)COC([C@@H](C(C)C)NC(=O)OC(C)(C)C)=O | C54H63NO10
